US04282365
2-(1H-Tetrazol-5-yl)-6,11-dihydro-11-oxodibenz[b,e]oxepin
Heat a mixture of 25 gm. (0.106 mole) of 2-cyano-6,11-dihydro-11-oxodibenz[b,e]oxepin, 8.28 gm. (0.127 mole of sodium azide and 7.37 gm. (0.138 mole of ammonium chloride in 250 ml. of N,N-dimethylformamide to 140° C. for 27 hours. Cool, dilute with 500 cc. of water and acidify with 20% aqueous hydrochloric acid. Separate the solids by filtration and crystallize from ethanol to obtain the title product (m.p. 248° C. dec.).

reactant | 2-cyano-6,11-dihydro-11-oxodibenz[b,e]oxepin | 0.106 mole | C(#N)C1=CC2=C(OCC3=C(C2=O)C=CC=C3)C=C1 | C15H9NO2
reactant | sodium azide | 0.127 mole | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 0.138 mole | [Cl-].[NH4+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 2-(1H-Tetrazol-5-yl)-6,11-dihydro-11-oxodibenz[b,e]oxepin | N1N=NN=C1C1=CC2=C(OCC3=C(C2=O)C=CC=C3)C=C1 | C15H10N4O2
